US05173484
a) Ethyl 4-dimethylaminomethyl-4-hydroxypiperidine-1-carboxylate
5.2 g (28 mmol) of ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate are added dropwise to 30 ml of dimethylamine solution (40% in water ) and the mixture is stirred overnight at room temperature. It is then concentrated and distilled.

reactant | ethyl 6-aza-1-oxaspiro[2,5]octane-6-carboxylate | 28 mmol, 5.2 g | O1CC12CCN(CC2)C(=O)OCC | C9H15NO3
reactant | dimethylamine | 30 ml | CNC | C2H7N
product | Ethyl 4-dimethylaminomethyl-4-hydroxypiperidine-1-carboxylate | CN(C)CC1(CCN(CC1)C(=O)OCC)O | C11H22N2O3
